US07858786B2
A solution of tert-butyl 1-(6-(2-(difluoromethyl)phenyl)pyrimidin-4-yl)piperidin-4-ylcarbamate (0.05 g, 0.1 mmol), CH2Cl2 (0.5 mL), and trifluoroacetic acid (0.5 mL) was stirred at room temperature for 30 minutes. The reaction was made basic with saturated aqueous NaHCO3 and extracted with CH2Cl2. The combined extracts were dried over Na2SO4 and evaporated. The residue was dissolved in CH2Cl2 (0.4 mL) and triethylamine (16 μL, 0.12 mmol), and the reaction was cooled in a dry ice/acetone bath. 2-Methoxyethyl chloroformate (16 μL, 0.1 mmol) was added, and the reaction was stirred for 15 minutes. The reaction was diluted with H2O and extracted with CH2Cl2. The combined extracts were washed with water, dried over Na2SO4 and evaporated. The residue was purified by reverse phase HPLC (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)) to give 2-methoxyethyl 1-(6-(2-(difluoromethyl)phenyl)pyrimidin-4-yl)piperidin-4-ylcarbamate. LC/MS: m/z 407.4 (M+H)+ at 2.18 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | tert-butyl 1-(6-(2-(difluoromethyl)phenyl)pyrimidin-4-yl)piperidin-4-ylcarbamate | 0.1 mmol, 0.05 g | FC(C1=C(C=CC=C1)C1=CC(=NC=N1)N1CCC(CC1)NC(OC(C)(C)C)=O)F | C21H26F2N4O2
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | triethylamine | 0.12 mmol, 16 μL | C(C)N(CC)CC | C6H15N
reactant | 2-Methoxyethyl chloroformate | 0.1 mmol, 16 μL | ClC(=O)OCCOC | C4H7ClO3
solvent | H2O | O | H2O
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxyethyl 1-(6-(2-(difluoromethyl)phenyl)pyrimidin-4-yl)piperidin-4-ylcarbamate | FC(C1=C(C=CC=C1)C1=CC(=NC=N1)N1CCC(CC1)NC(OCCOC)=O)F | C20H24F2N4O3
